US06998385B2
Preparation of Triethylsilyl Ether-Protected Cyclosporin A
Cyclosporin A (3.606 g, 3 mmol) was dissolved in dry pyridine (8 mL) and then DMAP (122 mg, 1 mmol) was added. The reaction mixture was cooled to 0° C. and then triethylsilyl trifluoromethanesulfonate (3.6 mmol) added dropwise. The mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was then poured slowly into water with stirring. The precipitated triethylsilyl ether was filtered off and washed with water. The collected cake was dissolved in a minimum volume of methanol and added to a 5% citric acid solution and stirred for 30 minutes. The precipitated product was collected by filtration and washed with water until the pH of the filtrate reached that of the water. The solid triethylsilyl ether was dried at 50° C. under vacuum to give a colorless solid. Triisopropylsilyl and tert-butyldimethylsilyl protecting groups were also introduced by following an analogous procedure.

reactant | Cyclosporin A | 3 mmol, 3.606 g | CC[C@H]1C(=O)N(CC(=O)N([C@H](C(=O)N[C@H](C(=O)N([C@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N([C@H](C(=O)N1)[C@@H]([C@H](C)C/C=C/C)O)C)C(C)C)C)CC(C)C)C)CC(C)C)C)C)C)CC(C)C)C)C(C)C)CC(C)C)C)C | C62H111N11O12
reactant | triethylsilyl trifluoromethanesulfonate | 3.6 mmol | FC(S(=O)(=O)O[Si](CC)(CC)CC)(F)F | C7H15F3O3SSi
reactant | water | O | H2O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 1 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Triethylsilyl Ether | C(C)[Si](CC)(CC)O[Si](CC)(CC)CC | C12H30OSi2
